US08222416B2
To a solution of 2-{4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-propan-2-ol (220 mg, 0.43 mmol) in ethanol (20 mL) and tetrahydrofuran (10 mL) was added an aqueous sodium hydroxide solution (10%, 3.0 mL) and an aqueous saturated ammonia solution (1.5 mL). The mixture was refluxed for 12 h, cooled to room temperature, extracted with ethyl acetate, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol (150 mg, 94%) which was used in the next step without purification: LC/MS m/e calcd for C23H25FN2O [M+H]+ 365.47, observed 365.3.

reactant | 2-{4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-propan-2-ol | 0.43 mmol, 220 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C=C2)C(C)(C)O | C29H29FN2O3S
reactant | sodium hydroxide | 3.0 mL | [OH-].[Na+]
reactant | ammonia | 1.5 mL | N | H3N
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol | 150 mg, 94% | C1(CCCC1)C=C(C1=CC=2C(=NC=C(C2)F)N1)C1=CC=C(C=C1)C(C)(C)O | C23H25FN2O
